US06900215B2
5′-Bromo-4-chloro-2′-fluorobiphenyl-2-carbonitrile was reacted with bis(pinacolato)diboron as in Example 1 to give 4-chloro-2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile as a brown oil: m/z (ES+) 358 (M++H).

reactant | 5′-Bromo-4-chloro-2′-fluorobiphenyl-2-carbonitrile | BrC=1C=CC(=C(C1)C=1C(=CC(=CC1)Cl)C#N)F | C13H6BrClFN
reactant | bis(pinacolato)diboron | B1(OC(C(O1)(C)C)(C)C)B2OC(C(O2)(C)C)(C)C | C12H24B2O4
product | 4-chloro-2′-fluoro-5′-(4,4,5,5-tetramethyl-[1,3,2]dioxaborolan-2-yl)biphenyl-2-carbonitrile | ClC=1C=C(C(=CC1)C1=C(C=CC(=C1)B1OC(C(O1)(C)C)(C)C)F)C#N | C19H18BClFNO2
